US06562828B1
2-[4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenoxymethyl]-5-cyano-1-(2-methoxyethyl)benzimidazole
To a solution of 2-[4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)-phenoxymethyl]-5-cyano-1-(2-hydroxyethyl)benzimidazole (270 mg) in tetrahydrofuran (5 ml) was added 60% sodium hydride (271 mg) at room temperature, and the mixture was stirred for 30 min. Thereto was added methyl iodide (0.105 ml), and the mixture was stirred for 24 hours. After completion of the reaction, 10% aqueous citric acid solution was added and the mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=4:1) and dried under reduced pressure to give the title compound (199 mg).

reactant | 2-[4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)-phenoxymethyl]-5-cyano-1-(2-hydroxyethyl)benzimidazole | 270 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(OCC2=NC3=C(N2CCO)C=CC(=C3)C#N)C=C1 | C26H30N4O5
reactant | sodium hydride | 271 mg | [H-].[Na+]
reactant | methyl iodide | 0.105 ml | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[4-(1-tert-Butoxycarbonylpyrrolidin-3-yloxy)phenoxymethyl]-5-cyano-1-(2-methoxyethyl)benzimidazole | 199 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(OCC2=NC3=C(N2CCOC)C=CC(=C3)C#N)C=C1 | C27H32N4O5
